US08003800B2
A solution of (3-{4-[5-(4-isobutyl-5-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenyl}-propionylamino)-acetic acid methyl ester in THF (1 mL), MeOH (1 mL) and 2 N aq. LiOH solution (0.25 mL) is stirred at rt for 4 h. The precipitate that formes is collected, washed with water and dried under HV to give (3-{4-[5-(4-isobutyl-5-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenyl}-propionylamino)-acetic acid (9 mg) as a white powder; LC-MS: tR=0.99 min, [M+1]=456.17.

reactant | (3-{4-[5-(4-isobutyl-5-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenyl}-propionylamino)-acetic acid methyl ester | COC(CNC(CCC1=C(C=C(C=C1C)C=1OC(=NN1)C=1SC(=C(C1)CC(C)C)C)C)=O)=O | C25H31N3O4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | LiOH | 2 N, 0.25 mL | [Li+].[OH-]
product | (3-{4-[5-(4-isobutyl-5-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenyl}-propionylamino)-acetic acid | 9 mg | C(C(C)C)C=1C=C(SC1C)C1=NN=C(O1)C1=CC(=C(C(=C1)C)CCC(=O)NCC(=O)O)C | C24H29N3O4S
